US07884210B2
(2-{3-[3-(Azetidine-1-carbonyl)-phenyl]-3-cyclopentylmethyl-ureido}-thiazol-5-ylsulfanyl)-acetic acid
The title compound was prepared via (2-{3-[3-(azetidine-1-carbonyl)-phenyl]-3-cyclopentylmethyl-ureido}-thiazol-5-ylsulfanyl)-acetic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using azetidin-1-yl-[3-(cyclopentylmethyl-amino)-phenyl]-methanone and (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester.

reactant | (2-{3-[3-(azetidine-1-carbonyl)-phenyl]-3-cyclopentylmethyl-ureido}-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(CC1CCCC1)C1=CC(=CC=C1)C(=O)N1CCC1)=O | C24H30N4O4S2
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | azetidin-1-yl-[3-(cyclopentylmethyl-amino)-phenyl]-methanone | N1(CCC1)C(=O)C1=CC(=CC=C1)NCC1CCCC1 | C16H22N2O
reactant | (2-amino-thiazol-5-ylsulfanyl)acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | (2-{3-[3-(Azetidine-1-carbonyl)-phenyl]-3-cyclopentylmethyl-ureido}-thiazol-5-ylsulfanyl)-acetic acid | N1(CCC1)C(=O)C=1C=C(C=CC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CC1CCCC1 | C22H26N4O4S2
